US05962292
The enzyme preparation to be determined is added to 100 mM TES buffer (pH 7.0) containing 5 mM L-proline, 5 mM 2-ketoglutaric acid, 1 mM ferrous sulfate and 5 mM L-ascorbic acid to make 100 μl in total, and the mixture was allowed to stand at 35° C. for 10 minutes. The reaction mixture is heated at 100° C. for 2 minutes so as to stop the reaction, and the amount of cis-3-hydroxy-L-proline produced in the reaction mixture is determined by high performance liquid chromatography (hereinafter referred to as HPLC).

reactant | L-proline | 5 mM | N1[C@H](C(=O)O)CCC1 | C5H9NO2
reactant | 2-ketoglutaric acid | 5 mM | O=C(C(=O)O)CCC(=O)O | C5H6O5
reactant | L-ascorbic acid | 5 mM | O=C1C(O)=C(O)[C@H](O1)[C@@H](O)CO | C6H8O6
product | cis-3-hydroxy-L-proline | O[C@H]1[C@H](NCC1)C(=O)O | C5H9NO3
